US06528525B1
(i) Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-[4-(2-azidoethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate (0.86 g), which is the product of Reference example 7(h), and palladium on carbon (5%, 129 mg) and the reaction mixture was treated to afford the title compound (0.80 g) as a syrup.

reactant | ethyl 3-[4-(2-azidoethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate | 0.86 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)(CCCC1=CC=CC=C1)C | C23H29N3O3
catalyst | palladium on carbon | 129 mg | [Pd] | Pd
product | Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-methyl-2-(3-phenylpropyl)propionate | 0.80 g | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)(CCCC1=CC=CC=C1)C | C23H31NO3
